US07371750B2
To a solution of 4-amino-2-methylsulfanyl-5-pyrimidinecarboxylate in a sodium salt form (1.28 g, 6.2 mmol), N-(3-Amino-4-methyl-phenyl)-3-trifluoromethyl-benzamide (1.82 g, 6.2 mmol), and DIEA (3.22 mL, 18.5 mmol) in DMF is added HATU (2.82 g, 7.42 mmol), and the mixture is stirred for 1 h at room temperature. The reaction mixture is diluted with EtOAc and washed with 5% aqueous Na2S2O3 solution, saturated aqueous NaHCO3 solution, and brine. The organic layer is dried over MgSO4 and concentrated in reduced pressure. The crude product is crystallized from MeOH to give 4-amino-2-methylsulfanyl-pyrimidine-5-carboxylic acid [2-methyl-5-(3-trifluoromethyl-benzoylamino)-phenyl]-amide (1.79 g, 61%) as a white solid.

reactant | 4-amino-2-methylsulfanyl-5-pyrimidinecarboxylate | NC1=NC(=NC=C1C(=O)[O-])SC
reactant | sodium | [Na] | Na
reactant | N-(3-Amino-4-methyl-phenyl)-3-trifluoromethyl-benzamide | 6.2 mmol, 1.82 g | NC=1C=C(C=CC1C)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C15H13F3N2O
reactant | DIEA | 18.5 mmol, 3.22 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 7.42 mmol, 2.82 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-amino-2-methylsulfanyl-pyrimidine-5-carboxylic acid [2-methyl-5-(3-trifluoromethyl-benzoylamino)-phenyl]-amide | 1.79 g, 61% | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)NC(=O)C=1C(=NC(=NC1)SC)N | C21H18F3N5O2S
